US07932211B2
Step 2: 3-ethylthio-2-methyl-4-trifluoromethylbenzoic acid
3.00 g (13.5 mmol) of 3-fluoro-2-methyl-4-trifluoromethylbenzoic acid were initially charged in 50 ml of N,N-dimethylformamide. 1.68 g (purity 60% by weight, 41.9 mmol) of NaH were added a little at a time. Towards the end of the evolution of gas, 1.77 g (purity 95% by weight, 27.0 mmol) of ethanethiol were added dropwise. The mixture was stirred at RT for 2 h and then heated at 80° C. for 10 h. The reaction mixture was cooled and, for workup, poured into ice-water and then acidified with concentrated hydrochloric acid. The product precipitated out and was separated off by filtration. What was isolated were 3.7 g of the pure product.

reactant | 3-fluoro-2-methyl-4-trifluoromethylbenzoic acid | 13.5 mmol, 3.00 g | FC=1C(=C(C(=O)O)C=CC1C(F)(F)F)C | C9H6F4O2
reactant | NaH | 41.9 mmol, 1.68 g | [H-].[Na+]
reactant | ethanethiol | 27.0 mmol, 1.77 g | C(C)S | C2H6S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-ethylthio-2-methyl-4-trifluoromethylbenzoic acid | C(C)SC=1C(=C(C(=O)O)C=CC1C(F)(F)F)C | C11H11F3O2S
